US03993656
Preparation of 6-(2-imidazolyl)-1,8-naphthyridin-2(1H)-one
To a mixture of 2-amino-6-(2-imidazolyl)-1,8-naphthyridine (211 mg., 1 mmole) in 40% sulphuric acid (2.5 ml.) at 5° C. is added with stirring sodium nitrite (69 mg., 1 mmole). The solution is allowed to warm to room temperature and then heated at 50° C. for 4 hours. The reaction mixture then is cooled to 5° C. and more sodium nitrite (40 mg., 0.57 mmole) added to ensure reaction goes to completion. The mixture then is heated at 50° C. for two hours, cooled to room temperature, diluted with water and neutralized with ammonium hydroxide affording 140 mg. of solid. The product is purified by dissolving in dilute acetic acid (5 ml.), treating the solution with charcoal, and neutralizing the filtered solution with a few drops of ammonium hydroxide. The product (100 mg., 47%) did not melt below 350° C.

reactant | 2-amino-6-(2-imidazolyl)-1,8-naphthyridine | 1 mmole, 211 mg | NC1=NC2=NC=C(C=C2C=C1)C=1NC=CN1 | C11H9N5
reactant | sodium nitrite | 1 mmole, 69 mg | N(=O)[O-].[Na+]
reactant | sodium nitrite | 0.57 mmole, 40 mg | N(=O)[O-].[Na+]
reactant | ammonium hydroxide | 140 mg | [OH-].[NH4+]
solvent | sulphuric acid | 2.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6-(2-imidazolyl)-1,8-naphthyridin-2(1H)-one | N1C(=NC=C1)C=1C=C2C=CC(NC2=NC1)=O | C11H8N4O
